US06645990B2
1-(3-Hydroxy-pyridin-2-yl)-3-(2-pyridin-3-yl-thiazol-4-yl)-urea
TEA (0.27 mL, 1.94 mmol) was added to a solution of 2-(pyridin-3-yl)thiazole-4-carboxylic acid (200 mg, 0.97 mmol) and 4A molecular sieves in THF (25 mL) under N2 at RT. (PhO)2PON3 (0.33 mL, 1.55 mmol) followed by 2-amino-6-hydroxypyridine (268 mg, 2.43 mmol) was added and the resulting mixture heated at reflux for 12 h. After cooling to RT, the heterogeneous mixture was decanted to remove the molecular sieves. The precipitate was collected, rinsing with EtOAc to give a white solid. MS m/z: 313.0 (M+H). Calc'd for C14H11N5O2S-313.34.

reactant | 2-(pyridin-3-yl)thiazole-4-carboxylic acid | 0.97 mmol, 200 mg | N1=CC(=CC=C1)C=1SC=C(N1)C(=O)O | C9H6N2O2S
reactant | (PhO)2PON3 | 1.55 mmol, 0.33 mL | P(=O)(OC1=CC=CC=C1)(OC1=CC=CC=C1)N=[N+]=[N-] | C12H10N3O3P
reactant | 2-amino-6-hydroxypyridine | 2.43 mmol, 268 mg | NC1=NC(=CC=C1)O | C5H6N2O
reactant | THF | 25 mL | C1CCOC1 | C4H8O
product | 1-(3-Hydroxy-pyridin-2-yl)-3-(2-pyridin-3-yl-thiazol-4-yl)-urea | OC=1C(=NC=CC1)NC(=O)NC=1N=C(SC1)C=1C=NC=CC1 | C14H11N5O2S
